US08222266B2
Preparation 34: 4-(3,5-Dimethyl-isoxazol-4-yl)-2-methanesulfonyl-pyrimidine (Prep34)
A solution of 4-(3,5-dimethyl-isoxazol-4-yl)-2-methylsulfanyl-pyrimidine (638 mg, 2.88 mmol) in MeOH (23 ml) was cooled at 0° C. and then an aqueous solution of oxone (5.31 g, 8.64 mmol in 23 ml of water) was slowly added. After stirring 1.5 hours at room temperature, the mixture was basified with solid NaHCO3 and the product was extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated to give 666 mg of the title compound that was used in the next step without further purification (91% yield).

reactant | 4-(3,5-dimethyl-isoxazol-4-yl)-2-methylsulfanyl-pyrimidine | 2.88 mmol, 638 mg | CC1=NOC(=C1C1=NC(=NC=C1)SC)C | C10H11N3OS
reactant | oxone | 8.64 mmol, 23 ml, 5.31 g | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 23 ml | CO | CH4O
product | 4-(3,5-Dimethyl-isoxazol-4-yl)-2-methanesulfonyl-pyrimidine | 666 mg, 91% yield | CC1=NOC(=C1C1=NC(=NC=C1)S(=O)(=O)C)C | C10H11N3O3S
